US09216999B2
tert-Butyl 4-cyanophenethylcarbamate
2-(4-Bromophenyl)ethylamine (2.00 g, 10.0 mmol) in tetrahydrofuran (5 mL) was mixed with Di-tert-butyl dicarbonate (2.20 g, 10.0 mmol) under cooling with ice and then stirred at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue (900 mg) was dissolved in N,N-dimethylformamide (30 mL) and mixed with zinc cyanide (705 mg, 60.0 mmol) and tetrakis(triphenylphosphine)palladium(0) (347 mg, 0.300 mmol), and the reaction mixture was stirred at 150° C. for 20 minutes under microwave irradiation. The resulting reaction mixture was allowed to cool to room temperature, mixed with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1→4/1 (v/v)) to give the title compound as a pale yellow solid (305 mg, yield 41%).

reactant | 2-(4-Bromophenyl)ethylamine | 10.0 mmol, 2.00 g | BrC1=CC=C(C=C1)CCN | C8H10BrN
reactant | Di-tert-butyl dicarbonate | 10.0 mmol, 2.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | zinc cyanide | 60.0 mmol, 705 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.300 mmol, 347 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-cyanophenethylcarbamate | 305 mg, yield 41% | C(#N)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1 | C14H18N2O2
